US08563575B2
The mixture of 2-chloro-3-nitropyridine (15 g), Na2CO3 (10.03 g) and N-methylbenzylamine (24.42 mL) in THF (150 mL) was stirred at 80° C. under a dry atmosphere (CaCl2 tube) overnight. The mixture was neutralized with 1N HCl at 0° C. and extracted with EtOAc. The organic layer was separated, washed with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-30% EtOAc in hexane) to give N-benzyl-N-methyl-3-nitropyridin-2-amine (19 g) as yellow oil.

reactant | 2-chloro-3-nitropyridine | 15 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | Na2CO3 | 10.03 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | N-methylbenzylamine | 24.42 mL | CNCC1=CC=CC=C1 | C8H11N
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | N-benzyl-N-methyl-3-nitropyridin-2-amine | 19 g | C(C1=CC=CC=C1)N(C1=NC=CC=C1[N+](=O)[O-])C | C13H13N3O2
